US08076344B2
5-ethyl-[1,2,4]triazolo[1,5-a]pyrimidin-7-amine
A mixture of 3-oxopentanenitrile (1.0 g, 103 mmol) and 3-amino-1,2,4-triazole (0.91 g, 10.8 mmol) in 10 mL of acetic acid was heated in a pressure tube at 150° C. for 24 h. The reaction mixture was allowed to cool to room temperature, and solvent was removed in vacuo. The solid was removed via filtration. The filtrate partially solidified upon standing at room temperature, and the solid was collected via filtration to give the title compound (200 mg, 12% yield).

reactant | 3-oxopentanenitrile | 103 mmol, 1.0 g | O=C(CC#N)CC | C5H7NO
reactant | 3-amino-1,2,4-triazole | 10.8 mmol, 0.91 g | NC1=NNC=N1 | C2H4N4
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 5-ethyl-[1,2,4]triazolo[1,5-a]pyrimidin-7-amine | 200 mg, 12% yield | C(C)C1=NC=2N(C(=C1)N)N=CN2 | C7H9N5
